US04876262
1-Acetyl-4-(4-methylsulfonylaminobenzoyl)piperidine
The same procedure as above was repeated except that methanesulfonamilide was replaced with p-toluenesulfonanilide or 1-acetylisonipecotoyl chloride was replaced with (±-N-benzoylnipecotoyl chloride or (±)-N-benzoyl-β-prolyl chloride prepared in Referential Example 2 to obtain the following compounds:

reactant | p-toluenesulfonanilide | C1(=CC=C(C=C1)S(=O)(=O)NC1=CC=CC=C1)C | C13H13NO2S
reactant | 1-acetylisonipecotoyl chloride | C(C)(=O)N1CCC(C(=O)Cl)CC1 | C8H12ClNO2
reactant | N-benzoylnipecotoyl chloride | C(C1=CC=CC=C1)(=O)N1CC(C(=O)Cl)CCC1 | C13H14ClNO2
product | 1-Acetyl-4-(4-methylsulfonylaminobenzoyl)piperidine | C(C)(=O)N1CCC(CC1)C(C1=CC=C(C=C1)NS(=O)(=O)C)=O | C15H20N2O4S
